US05712300
Preparation of 1-(Benzyloxycarbonyl)-2-(2-phenylethyl)pyrazolidin-3-one
Sodium hydride (562 mg, 14.1 mmol, 60% mineral oil dispersion) is added to a solution of 1-(benzyloxycarbonyl)pyrazolidin-3-one (2.81 g, 12.8 mmol, prepared similarly to that described in J. Org. Chem. 1990, 55, 6037) and DMF (37 mL) at 0° C. The solution is stirred for 30 minutes and then (2-bromoethyl)benzene (1.90 mL, 13.9 mmol) is added. The solution is stirred at 0° C. for 1 hour and 16 hours at room temperature. Aqueous workup (EtOAc, brine, MgSO4) and purification by flash chromatography (2:1→1:1 hexane:EtOAc) gives 1.58 g (38%) of the title compound as an oil.

reactant | Sodium hydride | 14.1 mmol, 562 mg | [H-].[Na+]
reactant | 1-(benzyloxycarbonyl)pyrazolidin-3-one | C(C1=CC=CC=C1)OC(=O)N1NC(CC1)=O | C11H12N2O3
reactant | (2-bromoethyl)benzene | 13.9 mmol, 1.90 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 37 mL | CN(C)C=O | C3H7NO
product | 1-(Benzyloxycarbonyl)-2-(2-phenylethyl)pyrazolidin-3-one | 1.58 g, 38% | C(C1=CC=CC=C1)OC(=O)N1N(C(CC1)=O)CCC1=CC=CC=C1 | C19H20N2O3
